US07485643B2
Step B: Preparation of 4-(2-chlorophenylamino)-5,6-difluoro-1,2-dihydroindazol-3-one:
6-(N′-tert-Butoxycarbonylhydrazino)-2-(2-chlorophenylamino)-3,4-difluorobenzoic acid methyl ester (1.00 equivalent) is treated with a 1:1 mixture of methylene chloride and TFA and stirred for 2 hours The reaction mixture is concentrated under reduced pressure and the product is purified by trituration or flash column chromatography if needed.

reactant | 6-(N′-tert-Butoxycarbonylhydrazino)-2-(2-chlorophenylamino)-3,4-difluorobenzoic acid methyl ester | 1.00 equivalent | COC(C1=C(C(=C(C=C1NNC(=O)OC(C)(C)C)F)F)NC1=C(C=CC=C1)Cl)=O | C19H20ClF2N3O4
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 4-(2-chlorophenylamino)-5,6-difluoro-1,2-dihydroindazol-3-one | ClC1=C(C=CC=C1)NC1=C2C(NNC2=CC(=C1F)F)=O | C13H8ClF2N3O
